US07579359B2
A solution of 2-butyl-1-isopropoxy-1H-imidazo[4,5-c][1,5]naphthyridine (0.40 g, 1.4 mmol) in dichloromethane (25 mL) was cooled to approximately 0° C., and 3-chloroperoxybenzoic acid (0.42 g of approximately 77% pure material, 1.9 mmol) was added. The reaction was stirred for ten minutes at 0° C., stirred for 1.5 hours at room temperature, and then stirred with saturated aqueous sodium bicarbonate (25 mL) for 15 minutes. The organic layer was separated and dried over potassium carbonate, filtered, and concentrated under reduced pressure to provide 0.42 g of 2-butyl-1-isopropoxy-5-oxido-1H-imidazo[4,5-c][1,5]naphthyridine as a yellow oil.

reactant | 2-butyl-1-isopropoxy-1H-imidazo[4,5-c][1,5]naphthyridine | 1.4 mmol, 0.40 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=NC23)N1)OC(C)C | C16H20N4O
reactant | 3-chloroperoxybenzoic acid | 1.9 mmol, 0.42 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 2-butyl-1-isopropoxy-5-oxido-1H-imidazo[4,5-c][1,5]naphthyridine | 0.42 g | C(CCC)C=1N(C2=C(C=[N+](C=3C=CC=NC23)[O-])N1)OC(C)C | C16H20N4O2
